US08008497B2
6-[2-Methoxy-4-(6-methylpyridin-3-ylcarbonyloxy)phenyl]-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 1-2)
6-(4-Hydroxy-2-methoxyphenyl)-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-2, 32.5 mg, 0.0723 mmol) and 6-methylnicotinic acid (15.7 mg, 0.114 mmol) were dissolved in N,N-dimethylformamide (1 mL), N,N-diisopropylethylamine (35 μL, 0.201 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N,N-tetramethyluronium hexafluorophosphate (38.3 mg, 0.101 mmol) were added thereto, and then the mixture was stirred at room temperature overnight. Ethyl acetate (20 mL) was added to the reaction mixture, and then the mixture was washed with water (20 mL) and saturated brine (20 mL) successively. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (21.5 mg) as a gray amorphous product. (Yield 57%)

reactant | 6-(4-Hydroxy-2-methoxyphenyl)-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.0723 mmol, 32.5 mg | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(=O)C=1SC(=CC1)C)OC | C26H27NO4S
reactant | 6-methylnicotinic acid | 0.114 mmol, 15.7 mg | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | N,N-diisopropylethylamine | 0.201 mmol, 35 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 6-[2-Methoxy-4-(6-methylpyridin-3-ylcarbonyloxy)phenyl]-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 21.5 mg, Yield 57% | COC1=C(C=CC(=C1)OC(=O)C=1C=NC(=CC1)C)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(=O)C=1SC(=CC1)C | C33H32N2O5S
